US05556861
A suspension of 1.4 g of 8-(trans-3-amino-2-methyl-1-azetidinyl)-1-cyclopropyl-3-ethoxycarbonyl-7-fluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine in 15 cm3 of water and 6.8 cm3 of N aqueous potassium hydroxide is heated to approximately 95° C. for 3 hours. After cooling to approximately 60° C., some very slight insoluble matter is removed by filtration; at the same temperature, 6.8 cm3 of N methanesulphonic acid are added to the filtrate. The insoluble matter formed is drained at approximately 20° C. and washed with 3 times 50 cm3 of water and twice 25 cm3 of ethanol. After recrystallization in 30 cm3 of dimethylformamide, one obtains 1.03 g of 8-(trans-3-amino-2-methyl-1-azetidinyl)-1-cyclopropyl-7-fluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid in the form of a yellow solid, which decomposes at 268°-270° C.

reactant | 8-(trans-3-amino-2-methyl-1-azetidinyl)-1-cyclopropyl-3-ethoxycarbonyl-7-fluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 1.4 g | N[C@H]1[C@@H](N(C1)C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)OCC)C2CC2)C1)F)C | C22H23FN4O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | 15 cm3 | O | H2O
product | 8-(trans-3-amino-2-methyl-1-azetidinyl)-1-cyclopropyl-7-fluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.03 g | N[C@H]1[C@@H](N(C1)C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C2CC2)C1)F)C | C20H19FN4O3
